US09065058B2
Step 2: Synthesis of 3-(Dibenzofuran-4-yl)-9-[3-(10-phenyl-9-anthryl)phenyl]-9H-carbazole (abbreviation: mDBFCzPA-II)
In a 100-mL three-neck flask were put 1.2 g (3.0 mmol) of 9-(3-bromophenyl)-10-phenylanthracene, 1.0 g (3.0 mmol) of 3-(dibenzofuran-4-yl)-9H-carbazole, and 0.87 g (9.1 mmol) of sodium tert-butoxide. After the air in the flask was replaced with nitrogen, to this mixture were added 20 mL of toluene and 0.2 mL of tri(tert-butyl)phosphine (a 10 wt % hexane solution). This mixture was degassed by being stirred while the pressure was reduced. After the degassing, 87 mg (0.15 mmol) of bis(dibenzylideneacetone)palladium(0) was added to this mixture. This mixture was stirred at 110° C. for 6 hours under a nitrogen stream. After the stirring, the obtained mixture was suction-filtered through Celite (produced by Wako Pure Chemical Industries, Ltd., Catalog No. 531-16855), alumina, and Florisil (produced by Wako Pure Chemical Industries, Ltd., Catalog No. 540-00135). The filtrate was concentrated to give a yellow solid. The obtained solid was recrystallized from toluene to give 1.8 g of a white solid which was the object of the synthesis in 88% yield. The synthesis scheme of Step 2 is illustrated in (b-12).

reactant | 9-(3-bromophenyl)-10-phenylanthracene | 3.0 mmol, 1.2 g | BrC=1C=C(C=CC1)C=1C2=CC=CC=C2C(=C2C=CC=CC12)C1=CC=CC=C1 | C26H17Br
reactant | 3-(dibenzofuran-4-yl)-9H-carbazole | 3.0 mmol, 1.0 g | C1=CC=C(C=2OC3=C(C21)C=CC=C3)C=3C=CC=2NC1=CC=CC=C1C2C3 | C24H15NO
reactant | sodium tert-butoxide | 9.1 mmol, 0.87 g | CC(C)([O-])C.[Na+]
reactant | tri(tert-butyl)phosphine | 0.2 mL | C(C)(C)(C)P(C(C)(C)C)C(C)(C)C | C12H27P
catalyst | bis(dibenzylideneacetone)palladium(0) | 0.15 mmol, 87 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd]
solvent | hexane | CCCCCC | C6H14
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
product | 3-(Dibenzofuran-4-yl)-9-[3-(10-phenyl-9-anthryl)phenyl]-9H-carbazole | 1.8 g, 88% yield | C1=CC=C(C=2OC3=C(C21)C=CC=C3)C=3C=CC=2N(C1=CC=CC=C1C2C3)C3=CC(=CC=C3)C=3C2=CC=CC=C2C(=C2C=CC=CC32)C3=CC=CC=C3 | C50H31NO
